US08034812B2
Production of 3-(1-cyano-1-methylethyl)benzoic acid
To a solution of methyl 3-(1-cyano-1-methylethyl)benzoate (2.8 g, 14 mmol) in tetrahydrofuran (30 mL) were added lithium hydroxide-monohydrate (0.98 g, 24 mmol), methanol (10 mL) and water (10 mL), and the mixture was stirred at room temperature for 18 hr. The solvent was evaporated under reduced pressure, and the residue was diluted with water (15 mL). The mixture was adjusted to pH 3 by slowly adding 1N hydrochloric acid. The precipitated white precipitate was collected by filtration, washed with water, and air-dried to give the title compound (2.5 g, 98%) as a white powder.

reactant | methyl 3-(1-cyano-1-methylethyl)benzoate | 14 mmol, 2.8 g | C(#N)C(C)(C)C=1C=C(C(=O)OC)C=CC1 | C12H13NO2
reactant | lithium hydroxide-monohydrate | 24 mmol, 0.98 g | O.[OH-].[Li+]
reactant | methanol | 10 mL | CO | CH4O
reactant | water | 10 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-(1-cyano-1-methylethyl)benzoic acid | 2.5 g, 98% | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
